US04144047
Preparation of 3-(α,α, α-Trifluoro-m-Tolyl)-4-isothiazolecarboxylic Acid. 2,2,2-Trifluoroethyl Ester.
A solution of 2.50 g (0.00856 mol) of 3-(α,α,α-trifluoro-m-tolyl)-4-isothiazolecarbonyl chloride and 50 ml of 2,2,2-trifluorethanol was held at reflux for 40 minutes, was allowed to stand overnight, and was concentrated under vacuum (to 90° at 0.1 torr) to give 2.68 g (88%) of oil, nD24 = 1.4976.

reactant | 3-(α,α,α-trifluoro-m-tolyl)-4-isothiazolecarbonyl chloride | 0.00856 mol, 2.50 g | FC(C1=CC(=CC=C1)C1=NSC=C1C(=O)Cl)(F)F | C11H5ClF3NOS
reactant | 2,2,2-trifluorethanol | 50 ml | FC(CO)(F)F | C2H3F3O
product | 3-(α,α, α-Trifluoro-m-Tolyl)-4-isothiazolecarboxylic Acid. 2,2,2-Trifluoroethyl Ester | 2.68 g, 88% | FC(C1=CC(=CC=C1)C1=NSC=C1C(=O)OCC(F)(F)F)(F)F | C13H7F6NO2S
